US04719182
Thyroxine methyl ester (5 g), as prepared above, N-carbobenzoxyglycylglycine (1.67 g) and cyclohexylmorpholinoethylcarbodiimide (5.3 g) were combined in 40 ml of dimethylacetamide. The mixture was stirred at room temperature for 24 hours, poured into deionized water, and the resulting residue collected and washed with water. The residue was recrystallized from methanol and water, yielding the product, N-carbobenzoxyglycylglycylthyroxine methyl ester.

reactant | Thyroxine methyl ester | 5 g | COC([C@@H](N)CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)=O | C16H13I4NO4
reactant | N-carbobenzoxyglycylglycine | 1.67 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)NCC(=O)O | C12H14N2O5
reactant | cyclohexylmorpholinoethylcarbodiimide | 5.3 g | C1(CCCCC1)N=C=NCCN1CCOCC1 | C13H23N3O
reactant | water | O | H2O
solvent | dimethylacetamide | 40 ml | CC(=O)N(C)C | C4H9NO
product | N-carbobenzoxyglycylglycylthyroxine methyl ester | COC([C@@H](NC(CNC(CNC(=O)OCC1=CC=CC=C1)=O)=O)CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)=O | C28H25I4N3O8
